US08802659B2
1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-methyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid
Synthesized as per 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid using 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-methyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester as starting material. ESI-MS (M+H+): 411.30; 1H NMR (400 MHz, METHANOL-d4) Shift 7.97 (d, J=9.29 Hz, 1H), 7.41 (dd, J=2.64, 9.16 Hz, 1H), 7.36 (d, J=2.51 Hz, 1H), 7.27 (s, 1H), 4.73 (s, 2H), 4.45-4.59 (m, 4H), 4.36-4.45 (m, 1H), 3.71-3.86 (m, 1H), 2.69 (s, 3H), 2.28 (d, J=11.29 Hz, 2H), 1.92 (d, J=10.79 Hz, 2H), 1.37-1.52 (m, 2H), 1.19-1.36 (m, 2H), 1.06-1.19 (m, 1H), 0.92 (s, 9H).

reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CN1CC(C1)C(=O)O)C(F)(F)F | C25H31F3N2O3
reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-methyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C1)CC1=NC2=CC=C(C=C2C(=C1)C)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C26H36N2O3
product | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-methyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)CN1CC(C1)C(=O)O)C | C25H34N2O3
